simulator lang=spectre
global 0

ahdl_include "./dut/rf_envelope_detector_attack_release.va"

Vvin (vin 0) vsource type=pwl wave=[0 0.45 18n 0.45 18.2n 0.72 40n 0.72 40.2n 0.52 62n 0.52 62.2n 0.30 92n 0.30]
Vclk (clk 0) vsource type=pwl wave=[0 0 9n 0 10n 0.9 12n 0.9 12.2n 0 20n 0.9 22n 0.9 22.2n 0 30n 0.9 32n 0.9 32.2n 0 40n 0.9 42n 0.9 42.2n 0 50n 0.9 52n 0.9 52.2n 0 60n 0.9 62n 0.9 62.2n 0 70n 0.9 72n 0.9 72.2n 0 80n 0.9 82n 0.9 82.2n 0 92n 0]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.2n 0 92n 0]
Venable (enable 0) vsource type=pwl wave=[0 0 5n 0 5.2n 0.9 80n 0.9 80.2n 0 92n 0]
XDUT (vin clk rst enable envelope attack_metric valid) rf_envelope_detector_attack_release


tran tran stop=92n maxstep=200p
save vin clk rst enable envelope attack_metric valid
